US08486953B2
4-(6-(2-Methoxyethoxy)-2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylic acid
Prepared as described for 4-(6-(3-methoxypropoxy)-2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylic acid except that 2-methoxyethanol was used in place of 3-methoxypropan-1-ol in the first step.

reactant | 4-(6-(3-methoxypropoxy)-2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylic acid | COCCCOC1=CC=C(C(=N1)OC1CCOCC1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C22H26N4O6S
reactant | 2-methoxyethanol | COCCO | C3H8O2
product | 4-(6-(2-Methoxyethoxy)-2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylic acid | COCCOC1=CC=C(C(=N1)OC1CCOCC1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C21H24N4O6S
